US07354571B2
Chloromethyltrimethylsilane (36.7 g, 0.3 mol) is added dropwise over 10 minutes to a mixture of vanillin (45.6 g, 0.3 mol) and potassium carbonate (41.4 g, 0.3 mol) in 300 ml of dry DMF maintained at 100° C., and while sparging with nitrogen. The mixture is left at 100° C. for 2 hours. The reaction mixture is filtered and the solvent is removed from the filtrate by distillation under vacuum. The final traces of DMF are removed via a stage at 60° C. under a vacuum of 2 mmHg. 70 g of a pink syrup, which crystallizes, are obtained. After recrystallization from an 80/20 ethanol/water mixture, 35.5 g (yield: 50%) of 3-methoxy-4-trimethylsilanylmethoxybenzaldehyde are obtained in the form of white crystals (m.p. 45° C.), which are used without purification in the next step.

reactant | Chloromethyltrimethylsilane | 0.3 mol, 36.7 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | vanillin | 0.3 mol, 45.6 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | potassium carbonate | 0.3 mol, 41.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol water | C(C)O.O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 3-methoxy-4-trimethylsilanylmethoxybenzaldehyde | 35.5 g, yield: 50% | COC=1C=C(C=O)C=CC1OC[Si](C)(C)C | C12H18O3Si
